US06165942
Synthesis of 8-(4-chloro-3-ethoxycarbonylphenyl)-7,8-dihydro-2-methyl-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (The compound No.13)
A mixture of 2-amino-3-(4-chloro-3-ethoxycarbonylphenyl)-3,4-dihydro-6-trifluoromethylpyrimidin-4-one (0.5 g), bromoacetone dimethyl acetal (0.6 g) and DMF (10 ml) was heated for 5 hours at 130° C. with stirring. The solvent was distilled off under reduced pressure. The residue was added with water and extracted with ethyl acetate. The extract layer was washed with water and dried on anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by a preparative thin-layer plate of alumina (developing solvent: ethyl acetate/hexane=3/7) to give the compound of interest (0.11 g).

reactant | 2-amino-3-(4-chloro-3-ethoxycarbonylphenyl)-3,4-dihydro-6-trifluoromethylpyrimidin-4-one | 0.5 g | NC1=NC(=CC(N1C1=CC(=C(C=C1)Cl)C(=O)OCC)=O)C(F)(F)F | C14H11ClF3N3O3
reactant | bromoacetone dimethyl acetal | 0.6 g | COC(C)(CBr)OC | C5H11BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 8-(4-chloro-3-ethoxycarbonylphenyl)-7,8-dihydro-2-methyl-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | ClC1=C(C=C(C=C1)N1C=2N(C(=CC1=O)C(F)(F)F)C=C(N2)C)C(=O)OCC | C17H13ClF3N3O3
